US07560569B2
(2S,4S)-1-[[N-(4-Carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (30.0 mg), along with 1-hydroxybenzotriazole, was dissolved in N,N-dimethylformamide (1.0 mL). To this solution, 2-aminothiazole (18.6 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (53.4 mg) were added, and the mixture was stirred at room temperature for 15 hours. The solvent was evaporated under reduced pressure and the resulting residue was purified by preparative thin-layer chromatography (solvent:dichloromethane:methanol=9:1) to give (2S,4S)-4-fluoro-1-[[N-[4-[N-(thiazol-2-yl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (17.4 mg).

reactant | (2S,4S)-1-[[N-(4-Carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 30.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-aminothiazole | 18.6 mg | NC=1SC=CN1 | C3H4N2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 53.4 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (2S,4S)-4-fluoro-1-[[N-[4-[N-(thiazol-2-yl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 17.4 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)NC=2SC=CN2)=O)C#N | C19H24FN5O2S
